US04061761
3-Ethyl-2-ethylimino-4-(4-chloro-3-o-chlorobenzylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
7.8 g of 2,4'-dichloro-3'-o-chlorobenzylsulfamoylacetophenone and 2.5 g of 1,3-diethylthiourea were reacted as prescribed in Example 12 and worked up. Colorless crystals, decomposition beginning at 94° C, γ C=N 1615 cm-1.

reactant | 2,4'-dichloro-3'-o-chlorobenzylsulfamoylacetophenone | 7.8 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(NCC1=C(C=CC=C1)Cl)(=O)=O | C15H12Cl3NO3S
reactant | 1,3-diethylthiourea | 2.5 g | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-o-chlorobenzylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(NCC1=C(C=CC=C1)Cl)(=O)=O)=NCC | InChI=1S/C20H23Cl2N3O3S2.ClH/c1-3-23-19-25(4-2)20(26,13-29-19)15-9-10-17(22)18(11-15)30(27,28)24-12-14-7-5-6-8-16(14)21;/h5-11,24,26H,3-4,12-13H2,1-2H3;1H
